US04282246
5-(3,5-Dimethylphenylthio)furan-3-carboxylic Acid
3,5-Dimethylthiophenol (4.33 g., 31.4 mmoles; prepared from 3,5-dimethylaniline by the procedures of Tarbell and Fukushima, Org. Synth. III, 809) and cuprous oxide (2.25 g., 15.7 mmoles) were reacted in 40 ml. of dimethylformamide at 140° C. for three hours. The mixture was cooled slightly and 5-bromofuran-3-carboxylic acid (3.0 g., 15.7 mmoles) in 40 ml. of dimethylformamide added. The mixture was refluxed for approximately 16 hours. Isolation of crude product as an oil was according to the procedure of Example 16 below. The oil was chromatographed on silica gel with ethyl acetate-1/hexane-5/5% acetic acid as eluant. Product was recovered by evaporation of clean, middle fractions and trituration with water (706 mg.). Recrystallization from methanol/water gave purified 5-(3,5-dimethylphenylthio)furan-3-carboxylic acid (440 mg., m.p. 82°-86° C., m/e 248).

reactant | 3,5-Dimethylthiophenol | CC=1C=C(C=C(C1)C)S | C8H10S
reactant | 3,5-dimethylaniline | CC=1C=C(N)C=C(C1)C | C8H11N
reactant | 5-bromofuran-3-carboxylic acid | 15.7 mmoles, 3.0 g | BrC1=CC(=CO1)C(=O)O | C5H3BrO3
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-(3,5-Dimethylphenylthio)furan-3-carboxylic Acid | CC=1C=C(C=C(C1)C)SC1=CC(=CO1)C(=O)O | C13H12O3S
